US03985756
To a rapidly stirred solution of 2.3 g. (0.025 mole) of aniline and 10.0 g. (0.050 mole) of benzylphenylsulfide in 300 ml. of dry acetonitrile and 100 ml. of methylene chloride under nitrogen at -40° C., was added dropwise 3.5 g. (0.032 mole, 28% excess) of tert-butylhypochlorite in 25 ml. of methylene chloride at -78° C. in diffuse light. The reaction mixture was stirred 4 hours at -40° C. then allowed to warm slowly to -20° C. over 3 hours. Sodium methoxide (7.0 g., 0.13 mole) in 50 ml. of dry methanol (at 25°C) was added quickly. The reaction mixture was stirred for 1 hour as it warmed to room temperature. The solution was concentrated in vacuo, 100 ml. of water was added, and extracted with 5 × 100 ml. of chloroform. The combined organic phases were washed with 50 ml. of 5% aqueous sodium hydroxide, 100 ml. of saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and filtered. Solvent was removed in vacuo giving a dark brown oil which was chromatographed on 300 g. of Fisher basic alumina (Act I) using etherpentane as eluant. Recovered was 5.2 g. (72% yield based on starting aniline) of 2-aminodiphenylthiophenoxymethane. Recrystallization from ethanol-water gave light yellow crystals, m.p. 65°-65.5° ; ir (cm-1) (CCl4) 3480, 3380, 3090, 1620, 1580, 1490, 1450, 1310, 1270, 1160, 1080, 1070, 1025, 690; NMR (CCl4) τ: 2.4-3.7 (14H, m), 4.51 (1H, s), 6.0-6.4 (2H, br s).

reactant | aniline | 0.025 mole | NC1=CC=CC=C1 | C6H7N
reactant | benzylphenylsulfide | 0.050 mole | C(C1=CC=CC=C1)SC1=CC=CC=C1 | C13H12S
reactant | tert-butylhypochlorite | 0.032 mole | C(C)(C)(C)OCl | C4H9ClO
reactant | Sodium methoxide | 0.13 mole, 7.0 g | C[O-].[Na+]
reactant | acetonitrile | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-aminodiphenylthiophenoxymethane | 72% yield | NC1=C(SC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C19H17NS
